US07067517B2
Methyl-phenyl-carbamic acid 4-[4-(4-chloro-phenyl)-thiazol-2-yl]-phenyl ester
The title compound was prepared from 4-[4-(4-chloro-phenyl)-thiazol-2-yl]-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized (ethanol/water) (59%, white crystals). HPLC-MS m/z=421.1 (M+1), Rt: 5.85 min

reactant | 4-[4-(4-chloro-phenyl)-thiazol-2-yl]-phenol | ClC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C=C1)O | C15H10ClNOS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-[4-(4-chloro-phenyl)-thiazol-2-yl]-phenyl ester | ClC1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C23H17ClN2O2S
